data/rdb19/train.csv
rxn,smiles,ea
4929,[C:15](=[C:16]([c:17]1[c:18]([H:26])[c:19]([H:27])[c:20]([H:28])[c:21]([H:29])[c:22]1[H:30])[H:25])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])[O:5][C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]([H:4])[O:5][C:6]([H:12])([H:13])[H:14])[H:10])([H:7])([H:8])[H:9].[H:11][C:16]([C:15]([H:23])[H:24])([c:17]1[c:18]([H:26])[c:19]([H:27])[c:20]([H:28])[c:21]([H:29])[c:22]1[H:30])[H:25],35.47007429070072
2729,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])([C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])[C:23]([C:21]([C:20]([H:26])([H:27])[H:28])=[C:22]([H:29])[H:30])([O:24])[O:25][H:31])([H:13])[H:14])([H:10])([H:11])[H:12]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]1([H:7])[C:23]([C:21]([C:20]([H:26])([H:27])[H:28])=[C:22]([H:29])[H:30])([O:25][H:31])[O:24]1)([H:13])[H:14])([H:10])([H:11])[H:12].[C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16],41.3704641192453
144,[C:12]([C:13]([C:14]([C:15]([H:28])([H:29])[H:30])([c:16]1[c:17]([H:31])[c:18]([H:32])[c:19]([H:33])[c:20]([H:34])[c:21]1[H:35])[H:27])([H:25])[H:26])([H:22])([H:23])[H:24].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:12]([C:13]([H:25])[H:26])([H:22])([H:23])[H:24].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]#[N:5])[C:14]([C:15]([H:28])([H:29])[H:30])([c:16]1[c:17]([H:31])[c:18]([H:32])[c:19]([H:33])[c:20]([H:34])[c:21]1[H:35])[H:27])([H:6])([H:7])[H:8],67.6848233519122
1566,[C:1]([C:2]([C:3]([H:4])([H:5])[C:18]([O:17][C:16]([C:15]([H:22])([H:23])[H:24])([H:25])[H:26])([O:19])[C:20](=[C:21]([H:28])[H:29])[H:27])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:1]([C:2]([C:3]([H:4])([H:5])[C:18]([O:17][C:16]([C:15]([H:22])([H:23])[H:24])([H:25])[H:26])([O:19][H:12])[C:20](=[C:21]([H:28])[H:29])[H:27])[C:6](=[O:7])[N:8]([H:13])[H:14])([H:9])([H:10])[H:11],16.252358762023505
3312,[C:13]([C:14]([C:15]([C:16]([H:26])([H:27])[H:28])[C:17](=[O:18])[O:19][C:20]([H:29])([H:30])[H:31])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])([H:6])[H:7]>>[C:1]([C:2](=[C:3][H:9])[C:4]([H:10])([H:11])[H:12])([H:5])([H:6])[H:7].[H:8][C:15]([C:14]([C:13]([H:21])([H:22])[H:23])([H:24])[H:25])([C:16]([H:26])([H:27])[H:28])[C:17](=[O:18])[O:19][C:20]([H:29])([H:30])[H:31],34.153736748790834
3785,[C:13]([O:14][O:15])([H:16])([H:17])[H:18].[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]([C:2]([H:8])([H:9])[O:15][O:14][C:13]([H:16])([H:17])[H:18])([H:5])([H:6])[H:7].[C:3](=[C:4]([H:11])[H:12])[H:10],73.02587779637543
2624,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])[H:10])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:20](=[C:21]([c:22]1[c:23]([H:31])[c:24]([H:32])[c:25]([H:33])[c:26]([H:34])[c:27]1[H:35])[H:30])([H:28])[H:29]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])([H:10])[H:30])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:20](=[C:21][c:22]1[c:23]([H:31])[c:24]([H:32])[c:25]([H:33])[c:26]([H:34])[c:27]1[H:35])([H:28])[H:29],22.956807857262906
4800,[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([O:5][C:6]([H:16])([H:17])[H:18])[H:12])[H:11])([H:7])([H:8])[H:9].[H:10][O:19][H:20]>>[C:1]([H:7])([H:8])[H:9].[C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([O:5][C:6]([H:16])([H:17])[H:18])[H:12])([H:10])([H:11])[O:19][H:20],71.43112198950257
3350,[C:13]([C:14]([C:15]([H:16])[H:17])([c:18]1[c:19]([H:28])[c:20]([H:29])[c:21]([H:30])[c:22]([H:31])[c:23]1[H:32])[H:27])([H:24])([H:25])[H:26].[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])([H:6])[H:7]>>[C:1]([C:2]([C:3]([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[C:15]([C:14]([C:13]([H:24])([H:25])[H:26])([c:18]1[c:19]([H:28])[c:20]([H:29])[c:21]([H:30])[c:22]([H:31])[c:23]1[H:32])[H:27])([H:16])[H:17])([H:5])([H:6])[H:7],21.58293054031673
4656,[C:17](=[C:18]([c:19]1[c:20]([H:28])[c:21]([H:29])[c:22]([H:30])[c:23]([H:31])[c:24]1[H:32])[H:27])([H:25])[H:26].[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])[C:5](=[O:6])[O:7][H:16])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:3]([C:4]([H:13])([H:14])[H:15])[C:5](=[O:6])[O:7][H:16])[H:12])([H:8])([H:9])[H:10].[H:11][C:20]1([H:28])[C:19]([C:18](=[C:17]([H:25])[H:26])[H:27])[C:24]([H:32])=[C:23]([H:31])[C:22]([H:30])=[C:21]1[H:29],39.46273938304512
1784,[C:15]([O:16][C:17](=[O:18])[C:19](=[C:20]([H:25])[H:26])[C:21]([H:27])([H:28])[H:29])([H:22])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:15]([O:16][C:17](=[O:18])[C:19](=[C:20]([H:25])[H:26])[C:21]([H:27])([H:28])[H:29])([H:22])[H:24].[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10],24.41719535307493
